US07544672B2
A solution of pent-4-ynyl methanesulfonate (19.55 g) and piperazine (41.5 g) in EtOH (80 mL) was heated to reflux for 1 h, and evaporated. The residue was taken in NaOH 2M (70 mL) and extracted with Et2O (70 mL). Evaporation gave 1-(pent-4-ynyl)piperazine (4.4 g).

reactant | pent-4-ynyl methanesulfonate | 19.55 g | CS(=O)(=O)OCCCC#C | C6H10O3S
reactant | piperazine | 41.5 g | N1CCNCC1 | C4H10N2
solvent | EtOH | 80 mL | CCO | C2H6O
product | 1-(pent-4-ynyl)piperazine | 4.4 g | C(CCC#C)N1CCNCC1 | C9H16N2
